US06057329
9-Methoxy-N-(3,4,5-trimethoxyphenyl)-benzofhl-5,6-dihydroquinazoline-2-amine
The 3,4-dihydro-2-(dimethylaminomethylene)-7-methoxy-1(2H)-naphthalenone starting material was prepared from 7-methoxy-1-tetralone (5.0 g, 28.4 mmol) and N,N-dimethylformamide diethyl acetal (10 ml, 58.3 mmol) ito give the desired product as a yellow solid (1.28 g). m.p. 95.1°. MS (ES+) 232 (MH+, 100%).

reactant | 7-methoxy-1-tetralone | 28.4 mmol, 5.0 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | N,N-dimethylformamide diethyl acetal | 58.3 mmol, 10 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3,4-dihydro-2-(dimethylaminomethylene)-7-methoxy-1(2H)-naphthalenone | CN(C)C=C1C(C2=CC(=CC=C2CC1)OC)=O | C14H17NO2
